US04517128
Synthesis of 2-benzyl-1-nonanol.
The acohol was prepared by hydrogenation of α-heptylcinnamaldehyde exactly as in Example 1.α-Heptylcinnamaldehyde was pepared as follows: To a mixture of 53.8g (0.50 mole) benzaldehyde 50ml ethanol and 25 ml 10% NaOH at reflux were added 56.8 g (0.40 mole) nonanal dropwise over 20 min. Halfway through the addition of nonanal an additional 25 ml 10% NaOH were added. After two hours at reflux the mixture was cooled, diluted with 100 ml 30°-60° petroleum ether, washed once with 50 ml 5% HCl, once with saturated NaCl brine, filtered through 4A molecular sieves, stripped and fractionally distilled, bp 135°-150°/0.15 mm, to give 56.6 g (61%) whose IR showed aromatic CH stretch from 3000-3100 cm -1, aldehyde CH at 2705 cm-1, and an aldehyde C=O at 1706 cm-1.

reactant | α-heptylcinnamaldehyde | C(CCCCCC)C(C=O)=CC1=CC=CC=C1 | C16H22O
reactant | benzaldehyde | 0.50 mole, 50ml, 53.8g | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaOH | 25 ml | [OH-].[Na+]
reactant | nonanal | 0.40 mole, 56.8 g | C(CCCCCCCC)=O | C9H18O
reactant | NaOH | 25 ml | [OH-].[Na+]
product | 2-benzyl-1-nonanol | C(C1=CC=CC=C1)C(CO)CCCCCCC | C16H26O
